US06344452B1
To a solution of methyl 2-(3-nitrophenyl)-2-methylpropionate (1.8 g) in methanol (50 mL), 10% palladium carbon (200 mg) was added, followed by stirring at room temperature for 2 hours under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: n-hexane=1:2), whereby methyl 2-(3-aminophenyl)-2-methyl-propionate (1.5 g) was obtained.

reactant | methyl 2-(3-nitrophenyl)-2-methylpropionate | 1.8 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C(=O)OC)(C)C | C11H13NO4
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium carbon | 200 mg | [C].[Pd]
product | methyl 2-(3-aminophenyl)-2-methyl-propionate | 1.5 g | NC=1C=C(C=CC1)C(C(=O)OC)(C)C | C11H15NO2
